US04000052
530 g of m-xylene in 5 liters of CCl4 was chlorinated in the nucleus in the presence of 10 g of FeCl3 by passing chlorine over the reaction solution while stirring the latter, at a pressure of 0.06 atmospheres excess pressure, with the exclusion of light. The first half of the amount of chlorine calculated for dimethyltetrachlorobenzene was introduced into the gas chamber of the reaction vessel with the temperature of the liquid phase at 20° C, the remainder at 40° C. The reaction time was about 3 hours. Then, while irradiating the gas chamber in the reaction vessel with a 250-watt mercury vapor lamp at a temperature of 70° C in the liquid phase and 0.06 atmospheres excess pressure, the side chain chlorination was performed, which was completed within 4 hours 30 minutes. Total chlorine consumption: 110% of the calculated amount with respect to xylene. The reaction solution was stirred with 400 g of calcium hydroxide, rendering the solution neutral and iron-free. The calcium hydroxide containing iron and chloride was removed on a suction filter and the solution, after removal of the CCl4 by distillation, was fractionated at 12 Torr in a packed column. The principal fraction distilled at 182°-187° C. 1125 g of 1-methyl-3-chloromethyl-2,4,5,6-tetrachlorobenzene was obtained in a purity of 95.3% (yield 77%).

reactant | m-xylene | 530 g | C1(=CC(=CC=C1)C)C | C8H10
reactant | chlorine | ClCl | Cl2
reactant | dimethyltetrachlorobenzene | CC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)C | C8H6Cl4
reactant | CCl4 | 5 liters | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | mercury | [Hg] | Hg
product | 1-methyl-3-chloromethyl-2,4,5,6-tetrachlorobenzene | 1125 g, yield 77% | CC1=C(C(=C(C(=C1Cl)Cl)Cl)CCl)Cl | C8H5Cl5
